US04971982
440 mg of 4-(5-iodo-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile, 386 mg of p-tolyltrimethyltin, 144 mg of lithium chloride and 16 mg of bis(triphenylphosphine)palladium dichloride in 4 ml of dimethylformamide were heated at 100° C. for 2 hours. After cooling to room temperature 10% aqueous ammonia and ethyl acetate were added, the phases were separated and the aqueous phase was back-extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution to give 268 mg of 4-[5-(4-methylphenyl)-2-pyridyl]-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile which was used without further purification.

reactant | 4-(5-iodo-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 440 mg | IC=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H13IN2O
reactant | p-tolyltrimethyltin | 386 mg | C1(=CC=C(C=C1)[Sn](C)(C)C)C
reactant | lithium chloride | 144 mg | [Cl-].[Li+]
reactant | ammonia | N | H3N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-(4-methylphenyl)-2-pyridyl]-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 268 mg | CC1=CC=C(C=C1)C=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C24H20N2O
